US08664220B2
Step 1: 1-{4′-[4-(2′-Dimethylaminomethyl-biphenyl-3-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using 1-{4′-[4-(3-bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and 2-(N,N-dimethylaminomethyl)-phenylboronic acid.

reactant | 1-{4′-[4-(3-bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC(=CC=C1)Br | C28H25BrN2O3
reactant | 2-(N,N-dimethylaminomethyl)-phenylboronic acid | CN(C)CC1=C(C=CC=C1)B(O)O | C9H14BNO2
product | 1-{4′-[4-(2′-Dimethylaminomethyl-biphenyl-3-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC=1C=C(C=CC1)C1=C(C=CC=C1)CN(C)C | C37H37N3O3
